US06825349B2
A mixture of 6-amino-3-butyl-1,3-dihydropyrimidine-2,4-dione (4.0 g, 21.8 mmol) and aqueous acetic acid (120 ml) was heated at 70° C. until complete solution as attained, and the solution was cooled to 30° C. Sodium nitrite (3 g) was added in small portions while stirring, forming an orange precipitate. The reaction mixture was cooled to 0° C., and the precipitate filtered off, washed with water, and dried under reduced pressure, to provide 5-nitroso-6-amino-3-butyl-1,3-dihydropyrimidine-2,4-dione, which was used in the next reaction with no further purification.

reactant | 6-amino-3-butyl-1,3-dihydropyrimidine-2,4-dione | 21.8 mmol, 4.0 g | NC1=CC(N(C(N1)=O)CCCC)=O | C8H13N3O2
reactant | Sodium nitrite | 3 g | N(=O)[O-].[Na+]
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 5-nitroso-6-amino-3-butyl-1,3-dihydropyrimidine-2,4-dione | N(=O)C=1C(N(C(NC1N)=O)CCCC)=O | C8H12N4O3
